US07265120B2
In a sealed tube, a mixture of 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (150 mg) and butylamine (0.116 ml) in 1,3-dimethyl-2-imidazolidinone (0.3 ml) was heated at 120-125° C. for 50 hours. After addition of water (3 ml), a precipitate was collected by filtration and purified by column chromatography on silica gel eluting with a mixture of n-hexane and EtOAc (50:50 v/v) to give a solid. The solid was suspended in acetone to give 6-[5-amino-6-(butylamino)-3-phenyl-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone (71 mg).

reactant | 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 150 mg | NC=1N=C(C(=NC1Br)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C17H16BrN5O
reactant | butylamine | 0.116 ml | C(CCC)N | C4H11N
reactant | water | 3 ml | O | H2O
solvent | 1,3-dimethyl-2-imidazolidinone | 0.3 ml | CN1C(N(CC1)C)=O | C5H10N2O
solvent | acetone | CC(=O)C | C3H6O
product | 6-[5-amino-6-(butylamino)-3-phenyl-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone | 71 mg | NC=1N=C(C(=NC1NCCCC)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C21H26N6O
